US03988454
A. Ethyl 2-(4-bromophenethyl)-benzoate
A solution of 40 g. (0.131 mole) of 2-(4-bromophenethyl)-benzoic acid in 250 ml. of absolute ethanol is stirred and heated to refluxing while hydrogen chloride is introduced into the solution for 2 hours. After standing at room temperature for 2 1/2 days, the mixture again is stirred at reflux for 12 hours and, during this period, hydrogen chloride is passed into the solution for 1 hour. The two-phase mixture is evaporated to dryness under reduced pressure and the residue partitioned between benzene and water. The combined benzene layers are extracted with 5% aqueous sodium hydroxide and then washed thoroughly with water and dried over anhydrous sodium sulfate. Evaporation of the solvent and distillation of the residue in vacuo gives the product as the oily distillate, b.p. 142°/0.2 mm.

reactant | 2-(4-bromophenethyl)-benzoic acid | 0.131 mole | BrC1=CC=C(CCC2=C(C(=O)O)C=CC=C2)C=C1 | C15H13BrO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 2-(4-bromophenethyl)-benzoate | BrC1=CC=C(CCC2=C(C(=O)OCC)C=CC=C2)C=C1 | C17H17BrO2
